US07176322B2
6-Methoxy-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid ethyl ester
A solution of ethyl 4-oxocyclohexanecarboxylate (3 g, 17.6 mmol) and sodium acetate (1.59 g, 19.4 mmol) in glacial acetic acid (36 mL) was degassed with nitrogen prior to addition of 4-methoxyphenylhydrazine hydrochloride (3.38 g, 19.4 mmol). The mixture was heated at reflux for 2 hours then cooled, poured into water and extracted with tert-butylmethyl ether. The organic phase was washed with 5% K2CO3, then water and finally brine. The organic layer was dried over sodium sulphate then solvent removed under reduced pressure and the residue purified by column chromatography to afford 3.29 g of the title compound.

reactant | ethyl 4-oxocyclohexanecarboxylate | 17.6 mmol, 3 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | sodium acetate | 19.4 mmol, 1.59 g | C(C)(=O)[O-].[Na+]
reactant | 4-methoxyphenylhydrazine hydrochloride | 19.4 mmol, 3.38 g | Cl.COC1=CC=C(C=C1)NN
reactant | water | O | H2O
solvent | acetic acid | 36 mL | C(C)(=O)O | C2H4O2
product | 6-Methoxy-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid ethyl ester | 3.29 g | C(C)OC(=O)C1CCC=2NC3=CC=C(C=C3C2C1)OC | C16H19NO3
